US04352748
At 10° C. a solution of 93 g (0.72 mol) AlCl3 in 250 ml nitromethane is added to a mixture of 66 g (0.62 mol) ethyl benzene and 70 g (0.66 mol) isobutyroyl chloride, after which the mixture is stirred during half an hour. The reaction mixture is poured out into ice and extracted with ether. The solution in ether is washed neutral, dried on MgSO4 and evaporated. The residue is distilled under diminished pressure to obtain p-ethylphenyl isopropyl ketone in a yield of 77%.

reactant | AlCl3 | 0.72 mol, 93 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | ethyl benzene | 0.62 mol, 66 g | C(C)C1=CC=CC=C1 | C8H10
reactant | isobutyroyl chloride | 0.66 mol, 70 g | C(C(C)C)(=O)Cl | C4H7ClO
solvent | nitromethane | 250 ml | [N+](=O)([O-])C | CH3NO2
product | p-ethylphenyl isopropyl ketone | yield of 77% | C(C)(C)C(=O)C1=CC=C(C=C1)CC | C12H16O
